US07659279B2
2-[(2R)-2-({[4-[3-Chloro-4-fluoroanilino]-7-(2-methoxyethoxy)quinazolin-5-yl]oxy}methyl)pyrrolidin-1-yl]-2-oxoethanol
2-Bromoethyl methyl ether (22 μl) and potassium carbonate (43 mg) were added to a mixture of 4-[3-chloro-4-fluoroanilino]-5-{[(2R)-1-glycoloylpyrrolidin-2-yl]-methoxy}-quinazolin-7-ol (70 mg) in DMF and the reaction mixture was heated at 40° C. for 16 hours. The reaction mixture was cooled to room temperature and then water (5 ml) was added to leave a white precipitate. The precipitate was filtered, washed with water and then purified by column chromatography using 2-5% methanol in DCM as eluent to give the title compound as a white solid (51 mg, 64%); NMR Spectrum (DMSO-d6 at 373 K) 9.80 (br s, 1H), 8.40 (s, 1H), 8.15 (m, 1H), 7.65 (m, 1H), 7.33 (m, 1H), 6.80 (m, 2H), 4.60 (m, 1H), 4.50 (m, 1H), 4.30-4.10 (m, 4H), 4.0 (m, 2H), 3.75 (t, 2H), 3.50-3.37 (m, 2H), 3.35 (s, 3H), 2.10-1.85 (m, 4H); Mass spectrum MH+ 505.

reactant | 2-Bromoethyl methyl ether | 22 μl | COCCBr | C3H7BrO
reactant | potassium carbonate | 43 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-[3-chloro-4-fluoroanilino]-5-{[(2R)-1-glycoloylpyrrolidin-2-yl]-methoxy}-quinazolin-7-ol | 70 mg | ClC=1C=C(NC2=NC=NC3=CC(=CC(=C23)OC[C@@H]2N(CCC2)C(CO)=O)O)C=CC1F | C21H20ClFN4O4
reactant | water | 5 ml | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[(2R)-2-({[4-[3-Chloro-4-fluoroanilino]-7-(2-methoxyethoxy)quinazolin-5-yl]oxy}methyl)pyrrolidin-1-yl]-2-oxoethanol | 51 mg, 64% | ClC=1C=C(NC2=NC=NC3=CC(=CC(=C23)OC[C@@H]2N(CCC2)C(CO)=O)OCCOC)C=CC1F | C24H26ClFN4O5
